US09108953B2
A mixture of 2-chloro-N-cyclopentyl-7-(3,5-dimethylisoxazol-4-yl)quinoline-5-sulfonamide (350 mg, 0.86 mmol) and sodium acetate (700 mg, 10 equiv) in acetic acid (10 mL) was refluxed overnight. The mixture was partitioned between sodium bicarbonate solution and ethyl acetate. The organic phase was washed with aqueous sodium bicarbonate solution and dried over sodium sulfate to give N-cyclopentyl-7-(3,5-dimethylisoxazol-4-yl)-2-oxo-1,2-dihydroquinoline-5-sulfonamide as a white powder.

reactant | 2-chloro-N-cyclopentyl-7-(3,5-dimethylisoxazol-4-yl)quinoline-5-sulfonamide | 0.86 mmol, 350 mg | ClC1=NC=2C=C(C=C(C2C=C1)S(=O)(=O)NC1CCCC1)C=1C(=NOC1C)C | C19H20ClN3O3S
reactant | sodium acetate | 700 mg, 10 equiv | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | N-cyclopentyl-7-(3,5-dimethylisoxazol-4-yl)-2-oxo-1,2-dihydroquinoline-5-sulfonamide | C1(CCCC1)NS(=O)(=O)C=1C=2C=CC(NC2C=C(C1)C=1C(=NOC1C)C)=O | C19H21N3O4S
